US04105648
850 ml of anhydrous triethylamine and 92.5 g (0.6 mol) of N,N'-methylene-bis-acrylamide are initially introduced into a 2.5 liter sulphonation flask equipped with a stirrer, a thermometer, a reflux condenser and a dropping funnel. 220 g (approximately 2 mols) of trimethylchlorosilane are then added dropwise, whilst cooling occasionally with an ice bath, in such a way that the temperature of the reaction mixture does not exceed 15°-25° C. A little sulphur is then added, as a polymerisation inhibitor, to the reaction mixture, which is stirred overnight at 60° C. The following day, the triethylamine hydrochloride which has precipitated is filtered off, the filter cake is washed with approximately 300 ml of triethylamine, and the filtrates are finally combined and distilled in vacuo. 108 g of N,N'-bis-trimethylsilyl-N,N'-methylene-bis-acrylamide are obtained as a fraction distilling at 120° C/0.8 mm Hg.

reactant | N,N'-methylene-bis-acrylamide | 0.6 mol, 92.5 g | C(NC(C=C)=O)NC(C=C)=O | C7H10N2O2
reactant | trimethylchlorosilane | approximately 2 mols, 220 g | C[Si](Cl)(C)C | C3H9ClSi
reactant | sulphur | [S] | S
solvent | triethylamine | 850 ml | C(C)N(CC)CC | C6H15N
product | N,N'-bis-trimethylsilyl-N,N'-methylene-bis-acrylamide | 108 g | C[Si](N(C(C=C)=O)CN(C(C=C)=O)[Si](C)(C)C)(C)C | C13H26N2O2Si2
